### PR TITLE
a rough sketch of a depenendent version.

### PR DESCRIPTION
**Pull request by gmalecha**
I'm opening this as a PR, just so it is easy to discuss.

- Some of the types become quite painful.
- The file doesn't compile.

### CODE REVIEW

File: src/DTerm.v [hunk 1]
```diff
@@ -0,0 +1,198 @@
...
+   ** prove as two separate theorems. Even with this though, the issue is
+   ** matching on g'/f' when it is known to have the same domain and codomain.
+   ** This is encapsulated in `case_endo`
+   **)
+  destruct g.
+  { eapply (@case_endo ctxt x (fun g' => Equiv Identity g' → Equiv f f' → Equiv (Compose Identity f) (compose g' f')) _ _ _ g'). }
+  { simpl.
+Admitted.
+
+(** I'm sure this exists somewhere *)
```
Comment (jwiegley) [inline src/DTerm.v]: You can just use `(reflexivity _)`, as a term.

File: src/DTerm.v [hunk 2]
```diff
@@ -0,0 +1,198 @@
...
+  { intros. apply X1. }
+  { clear - Hident. admit. }
+  { eapply Hmorph. }
+  { eapply Hcompose. }
+Admitted.
+
+Theorem Compose_compose {ctxt a b c} (g g' : mor_expr ctxt b c) (f f' : mor_expr ctxt a b)
+: Equiv g g' -> Equiv f f' -> Equiv (Compose g f) (compose g' f').
+Proof.
+  (** NOTE: This proof is more complex than I would like. Perhaps easier to
```
Comment (jwiegley) [inline src/DTerm.v]: Even the non-dependent version is proving somewhat nightmarish. Just proving the soundness of composition simplification is becoming so slow it takes up to 20 second per use of `simpl`. Are we barking up the right tree?

Comment (gmalecha) [inline src/DTerm.v]: To make things efficient, you need to erase proofs from the computation. Which should be fine. Basically, we take the code that proves itself and show that when you compose it with projT1 you can build a more efficient function because you don't need to track the proofs. At the same time, however, the property still holds since the proved version produces the same value (which probably has the property).

**Comment by jwiegley** [comment]
I think may not be worth the time just yet to go down this road, so closing for now.
